US08802664B2
To a solution of N-tert-butoxycarbonyl-2-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethylamine in dichloromethane (2 mL) is added trifluoroacetic acid (0.5 ml) at room temperature. The mixture is stirred at room temperature for 24 h. Water is added and the mixture is basified by adding a solution of sodium hydroxide. The aqueous phase is extracted by ethyl acetate. The organic phase is washed by water, then dried over magnesium sulfate and concentrated. The residue is triturated in diisopropylether to give 2-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethylamine.

reactant | N-tert-butoxycarbonyl-2-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethylamine | C(C)(C)(C)OC(=O)NCCSC1=CC(=CC=C1)C(OC1CCN(CC1)C)C1=NC2=C(N1)C=CC=C2 | C27H36N4O3S
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)methyl]phenylsulfanyl}ethylamine | N1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)SCCN)OC2CCN(CC2)C | C22H28N4OS
